US07452878B2
b. Preparation of methyl (R)-2-tert-butoxycarbonylamino-3-(3′-formylbiphenyl-4-yl)propionate
100 ml (201 mmol) of an aqueous 2M potassium carbonate solution and 4.4 g (3.80 mmol) of tetrakis palladium are introduced into a solution containing 33 g (77.3 mmol) of methyl (R)-2-tert-butoxycarbonylamino-3-(4-trifluoromethanesulfonyloxyphenyl)propionate, and 15 g (100 mmol) of 3-boronic acid-benzaldehyde (Example 28b) in 300 ml of ethylene glycol dimethyl ether. The reaction medium is heated at 85° C. for 20 h and, after a return to ambient temperature, extracted with ethyl acetate. The organic phase is washed with water and then a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue obtained is purified by chromatography on a column of silica and eluted with a 7/3 heptane/ethyl acetate mixture. 10.2 g of coupled product are obtained with a 35% yield.

reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (R)-2-tert-butoxycarbonylamino-3-(4-trifluoromethanesulfonyloxyphenyl)propionate | 77.3 mmol, 33 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C16H20F3NO7S
solvent | ethylene glycol dimethyl ether | 300 ml | COCCOC | C4H10O2
catalyst | tetrakis palladium | 3.80 mmol, 4.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
product | methyl (R)-2-tert-butoxycarbonylamino-3-(3′-formylbiphenyl-4-yl)propionate | 10.2 g, 35% yield | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)C=O | C22H25NO5
